US05102890
The procedure is as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 1-butyryl-4-piperidinecarboxylic acid (6 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.6 g). The residue obtained is purified by chromatography on silica (0.063-0.2 mm; 250 g) contained in a column 4.2 cm in diameter [eluant: a mixture of methylene chloride and methanol (99:1 by volume)], collecting 70-cc fractions. Fractions 82 to 110 are combined and concentrated to dryness under reduced pressure (b 2.7 kPa). The solid obtained is taken up with stirring with isopropyl ether, then separated by filtration and dried. 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 1-butyryl-4-piperidinecarboxylate (6 g), m.p. 165° C., is thereby obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 1-butyryl-4-piperidinecarboxylic acid | 6 g | C(CCC)(=O)N1CCC(CC1)C(=O)O | C10H17NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 1-butyryl-4-piperidinecarboxylate | 6 g | C(CCC)(=O)N1CCC(CC1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C26H25ClN4O4
